US06174889B1
(1-Benzyl-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine hydrochloride
4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl) pyrido[3,4-d]pyrimidine (0.02 g) was reacted with 1-benzylindazol-5-ylamine according to Procedure A to give the title compound as a yellow solid; δH [2H6]DMSO 11.50(1H,s), 9.55(1H,s), 9.43(1H,s), 8.95(1H,s), 8.34(2H,m),7.91(1H,d) 7.83(1H,dd),7.40(5H,m), 5.80(2H,s), 2.75 (3H,s); m/z (M+1+) 435.

reactant | 4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl) pyrido[3,4-d]pyrimidine | 0.02 g | ClC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=NN2)C | C10H6ClN5O
reactant | 1-benzylindazol-5-ylamine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)N | C14H13N3
product | (1-Benzyl-1H-indazol-5-yl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=NN2)C | InChI=1S/C24H18N8O.ClH/c1-15-30-31-24(33-15)20-10-19-21(12-25-20)26-14-27-23(19)29-18-7-8-22-17(9-18)11-28-32(22)13-16-5-3-2-4-6-16;/h2-12,14H,13H2,1H3,(H,26,27,29);1H
